US04563533
190 Parts of sulfuryl chloride were added homogeneously within 4 hours at a temperature of 45°-50° C. with stirring to 231 parts of 4-bromophenylthiourea suspended in 1,200 parts of o-dichlorobenzene. After the gas development had ceased, the batch was cooled to about 20° C., the curde 2-amino-6-bromobenzothiazolium chloride precipitated was suction-filtered and washed with o-dichlorobenzene. The filter cake moist with the solvent was suspended in 1,000 parts of water, the adhering o-dichlorobenzene was distilled off by blowing in steam, and the solution of 2-amino-6-bromobenzothiazolium chloride obtained was filtered off from the greasy undissolved matter after having added 10 parts of active charcoal at 95° C. The clear filtrate was adjusted to pH 8 with 25% sodium hydroxide solution, which caused the free 2-amino-6-bromobenzothiazole to precipitate as yellowish, slightly tacky matter. After cooling, the solids having become vitreous were isolated and dried in vacuo at 40°-50° C. 167 Parts of 2-amino-6-bromobenzothiazole having a purity degree of 88% were obtained (=147.1 parts of 100% compound, 64.2% of th.). By repeated redissolution in dilute hydrochloric acid with addition of active charcoal, 2-amino-6-bromobenzothiazole having a purity degree of >95% was obtained. However, this purification was very expensive and caused great losses, so that at best 82 parts of the intended compound were obtained (35.8% of th., relative to 4-bromophenylthiourea used).

reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 4-bromophenylthiourea | BrC1=CC=C(C=C1)NC(=S)N | C7H7BrN2S
solvent | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2-amino-6-bromobenzothiazolium chloride | [Cl-].NC=1SC2=C([NH+]1)C=CC(=C2)Br | InChI=1S/C7H5BrN2S.ClH/c8-4-1-2-5-6(3-4)11-7(9)10-5;/h1-3H,(H2,9,10);1H
